US05223516
a) (S)-3-[[[(1,1-Dimethylethyl)oxy]carbonyl]amino]-2-oxo-1-diazo-4-phenylbutane
A solution of N-[[(1,1-dimethylethyl)oxy]carbonyl]-L-phenylalanine (20.01 g., 75 mmol) in 150 mL of dry tetrahydrofuran was chilled to -25° C. and treated with N-methylmorpholine (8.3 mL, 75 mmol) and isobutylchloroformate (9.8 mL, 75 mmol) and then stirred at -25° C. for 10 minutes. The reaction mixture was then filtered into a flask containing a solution of diazomethane (prepared from 35.48 g., 240 mmol of N-methyl-N'-nitro-N-nitrosoguanidine) in 300 mL of anhydrous ether at -78° C. and then let warm to -5° C. and stirred overnight. The cold reaction mixture was then filtered and the filtrate was washed with water, saturated sodium bicarbonate, and brine. The organic layer was dried (MgSO4), filtered and concentrated in vacuo to yield a reddish brown oil. The oil was triturated with cold petroleum ether to yield 14.42 g. of a light tan solid. The mother liquors were concentrated and allowed to stand yielding a second crop of 1.96 g. of light yellow crystals for a total yield of 16.38 g. of the title A compound as a tannish solid; m.p. 87°-90° C. [α]D =-32.2° (c=1.15, methanol).

reactant | N-[[(1,1-dimethylethyl)oxy]carbonyl]-L-phenylalanine | 75 mmol, 20.01 g | CC(C)(C)OC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O | C14H19NO4
reactant | N-methylmorpholine | 75 mmol, 8.3 mL | CN1CCOCC1 | C5H11NO
reactant | isobutylchloroformate | 75 mmol, 9.8 mL | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | diazomethane | 240 mmol, 35.48 g | [N+](=[N-])=C | CH2N2
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
solvent | ether | 300 mL | CCOCC | C4H10O
solvent | methanol | CO | CH4O
product | (S)-3-[[[(1,1-Dimethylethyl)oxy]carbonyl]amino]-2-oxo-1-diazo-4-phenylbutane | CC(C)(C)OC(=O)N[C@H](C(C=[N+]=[N-])=O)CC1=CC=CC=C1 | C15H19N3O3
